US08975254B2
b) (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(2-hydroxypropan-2-yl)thiazole-4-carboxamide
(S)-ethyl 4-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl-carbamoyl)thiazole-2-carboxylate (0.755 g, 1.701 mmol) was dissolved in dry THF under nitrogen atmosphere. The solution was cooled to −78° C. with acetone-dry icebath. Methylmagnesium bromide, 3 M solution in Et2O (1.134 ml, 3.40 mmol), was added and the reaction mixture was stirred in RT. After the reaction was finished, saturated ammoniumchloride, water and DCM was added. The organic phase was washed with water. The product was purified with Flash-chromatography. Yield 4.24%. 1H-NMR (400 MHz; CDCl3): δ 1.28 (d, 3H), 1.65 (d, 6H), 3.00 (s, 1H), 4.35 (dd, 1H), 4.42 (dd, 1H), 4.58 (m, 1H), 6.62 (d, 7.50 (d, 1H), 7.66 (d, 1H), 7.67 (d, 1H), 7.80 (dd, 1H), 7.91 (d, 1H), 8.00 (s, 1H).

reactant | (S)-ethyl 4-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl-carbamoyl)thiazole-2-carboxylate | 1.701 mmol, 0.755 g | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(SC1)C(=O)OCC | C20H18ClN5O3S
reactant | Methylmagnesium bromide | C[Mg]Br
reactant | Et2O | 3.40 mmol, 1.134 ml | CCOCC | C4H10O
reactant | ammoniumchloride | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(2-hydroxypropan-2-yl)thiazole-4-carboxamide | Yield 4.24% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(SC1)C(C)(C)O | C20H20ClN5O2S
